US08076482B2
Preparation of chiral (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one
A mixture of chiral (2′S, 3S, 4′R)-1-acetyl-6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one (45 mg) and K2CO3 (30 mg) in methanol (2 mL) was stirred at room temperature for 15 min, and then the mixture was partitioned between ethyl acetate and diluted aqueous HCl solution. The organic layer was washed with brine, dried over anhydrous Na2SO4, concentrated to give the title compound as white solid (35 mg).

reactant | 1-acetyl-6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one | 45 mg | C(C)(=O)N1C(C2(C(NC(CC2C2=C(C=CC(=C2)Cl)OC(C(=O)NS(=O)(=O)C)(CC)CC)=S)C2=C(C=CC(=C2)F)C)C2=CC=C(C=C12)Cl)=O | C34H34Cl2FN3O6S2
reactant | K2CO3 | 30 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 2 mL | CO | CH4O
product | 6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one | 35 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C(=O)NS(=O)(=O)C)(CC)CC)=S)C1=C(C=CC(=C1)F)C)=O | C32H32Cl2FN3O5S2
